US05482969
N-(4-Benzoyl-2-bromophenyl)-3,3,3,-trifluoro-2-hydroxy-2-methylpropanamide.
To a stirred, cooled (-20° C.) solution of 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (0.75 g) in N,N-dimethylacetamide (10 mL) was rapidly added thionyl chloride (0.56 g) and the mixture stirred at -15° to -20° C. for 1 hour. 3-Bromo-4-aminobenzophenone (0.75 g) was then added in one portion and the mixture was allowed to stir at room temperature overnight. The solution was poured into ice water and the aqueous phase decanted from the resulting oily solid. Chromatography (eluent methylene chloride) gave the title compound (0.43 g) as a white solid; mp 138°-40° C. Analysis for C17H13BrF3NO3 : Calculated: C, 49.06; H, 3.15; N, 3.37; Found: C, 49.06; H, 3.10; N, 3.35.

reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 0.75 g | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | thionyl chloride | 0.56 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Bromo-4-aminobenzophenone | 0.75 g | BrC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H10BrNO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-(4-Benzoyl-2-bromophenyl)-3,3,3,-trifluoro-2-hydroxy-2-methylpropanamide | 0.43 g | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)NC(C(C(F)(F)F)(C)O)=O)Br | C17H13BrF3NO3
